US07238808B2
3-(5-Methoxy-pyridin-3-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1)(355 mg, 1.0 mmol) and commercially available 5-bromo-3-methoxypyridine (169 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (210 mg, 45%). MS (ISP) 463.2[(M+H)+]; mp 232–234° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 5-bromo-3-methoxypyridine | 1.0 mmol, 169 mg | BrC=1C=C(C=NC1)OC | C6H6BrNO
product | 3-(5-Methoxy-pyridin-3-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | COC=1C=C(C=NC1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C22H12F6N4O
